US08067445B2
Step 2: (2′-{[Ethyl-(4-fluoro-benzyloxycarbonyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 56, Step 2, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and 4-fluorobenzyl chloroformate.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO3
reactant | 4-fluorobenzyl chloroformate | ClC(=O)OCC1=CC=C(C=C1)F | C8H6ClFO2
product | (2′-{[Ethyl-(4-fluoro-benzyloxycarbonyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)OCC1=CC=C(C=C1)F)CC)=O | C28H27F4NO5
